Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
cough
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with HTN and HLD presents from her PCP's office for reported
fever at home in the setting of moderate neutropenia. The 
patient
says that over the past year she has lost ~30 lbs because of
decreased appetite; in reality her ___ record shows she has 
lost
17lbs during this time. Her outpatient workup thus far for the
weight loss (per ___ PCP ___ ___ has included EGD, ___,
CTAP--notable only for complex ovarian cyst which she is
scheduled to get evaluated further by gynecologist ___.
Starting this past ___ the patient started to experience bad
flu-like symptoms which she feels she is now finally getting
better from; at one point she took her temperature and it was
"100." She saw her PCP, who performed an influenza test which 
was
negative, a CXR which did not show PNA, and a CBC/diff which
notably showed ANC 630. Given these findings her PCP decided to
start empiric CAP treatment with azithromycin and cefuroxime and
send her here. 

In the ED:
- Initial vital signs were notable for: 
T 97.1 HR 66 BP 181/92 RR 18 SpO2 99% RA 
- Exam notable for:
Constitutional: Comfortable, thin.
Head/eyes: NCAT, PERRLA, EOMI.
ENT/neck: OP WNL
Chest/Resp: CTAB.
Cardiovascular: RRR, Normal S1/S2.
Abdomen: Soft, nondistended. mild RLQ tenderness.
Musc/Extr/Back: ___. No edema.
Skin: No rash. Warm and dry.
Neuro: Speech fluent.
Psych: Normal mood. Normal mentation.
- Labs were notable for: WBC 3.1, ANC 1090, normal UA, normal
Chem-7
- Patient was given: 
___ 01:37 PO Acetaminophen 1000 mg ___  
___ 01:37 PO Ibuprofen 800 mg ___ 

Upon arrival to the floor, she endorses a ___ headache but 
feels
overall pretty well and is eager to leave the hospital. 

 
Past Medical History:
HLD
HTN 
Complex ovarian cyst
Unintentional weight loss
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=========================
VITALS: T 97.9 PO BP 168/81 L Sitting HR 59 RR 20 SpO2 97% Ra 
Thin-appearing elderly black female, maneuvers herself easily
around the bed, alert/conversant and well-oriented to situation.
Heart RR w/o MRG, lungs CTAB, abd soft/ND with palpable RLQ mass
which is moderately tender. Legs warm w/o edema. 

DISCHARGE PHYSICAL EXAM:
========================
GENERAL: Pleasant, no acute distress Able to speak in full
sentences without issue.
CV: RRR. No MGR.
LUNGS: CTAB. No adventitious breath sounds. No increased work of
breathing.
ABD: +BS. Soft, non-tender, non-distended.
EXTREMITIES: No rashes. Warm, no edema.
 
Pertinent Results:
ADMISSION LABS:
===============
___ 10:12PM BLOOD WBC-3.1* RBC-4.66 Hgb-12.8 Hct-39.5 
MCV-85 MCH-27.5 MCHC-32.4 RDW-14.9 RDWSD-45.8 Plt ___
___ 10:12PM BLOOD Neuts-34 Bands-1 ___ Monos-18* 
Eos-0* Baso-0 Atyps-1* AbsNeut-1.09* AbsLymp-1.46 AbsMono-0.56 
AbsEos-0.00* AbsBaso-0.00*
___ 10:12PM BLOOD Plt Smr-NORMAL Plt ___
___ 10:12PM BLOOD Glucose-100 UreaN-13 Creat-0.7 Na-136 
K-4.1 Cl-101 HCO3-22 AnGap-13
___ 10:12PM BLOOD ALT-16 AST-34 AlkPhos-59 TotBili-0.2

DISCHARGE LABS
===============
___ 05:20PM BLOOD CMV IgG-POS* CMV IgM-NEG CMVI-Generally 
___ 05:20PM BLOOD HIV Ab-NEG
___ 05:33AM BLOOD WBC-3.5* RBC-4.39 Hgb-12.1 Hct-37.7 
MCV-86 MCH-27.6 MCHC-32.1 RDW-14.6 RDWSD-46.4* Plt ___
___ 05:33AM BLOOD Neuts-28.6* Lymphs-57.2* Monos-12.5 
Eos-0.8* Baso-0.3 Im ___ AbsNeut-1.01* AbsLymp-2.02 
AbsMono-0.44 AbsEos-0.03* AbsBaso-0.01
___ 05:33AM BLOOD Plt ___
___ 05:33AM BLOOD Glucose-119* UreaN-14 Creat-0.7 Na-141 
K-4.3 Cl-102 HCO3-27 AnGap-12
___ 05:33AM BLOOD Calcium-9.5 Phos-3.4 Mg-2.0

___ Peripheral smear review:
Patient's peripheral blood smear was reviewed per the request of
primary team.  Patient was not seen in consultation.  Briefly,
___ female presented with mild to moderate neutropenia 
in
the setting of acute viral syndrome. 

Peripheral blood smear review shows normal RBC morphology, 
normal
platelets.  Mature myeloid and lymphoid cell lines appreciated. 
Some large reactive lymphocytes noted, likely has a response to
her viral infection.  No concerning evidence of an underlying
hematological disorder appreciated.  
 
Brief Hospital Course:
========
SUMMARY:
========
___ is a ___ female who presents with mild to 
moderate neutropenia in the setting of acute viral syndrome, 
chronic weight loss, and recently diagnosed growing complex 
ovarian cyst.

===================
TRANSITIONAL ISSUES
=================== 
[] Patient notified to keep her appointment with gynecology on 
___ for management/workup of complex ovarian cyst.
[] Please check CBC w/ diff in 1 week to ensure improvement in 
neutropenia following resolution of viral illness

ACUTE ISSUES:
=============
#Acute Moderate Neutropenia:
Presented with Abs Neutrophil count of 1009 in setting of likely 
viral URI. Was started on azithromycin and cefuroxime prior to 
admission for empiric CAP coverage which was stopped here. 
Patient improved off antibiotics and felt near baseline at 
discharge. Checked for HIV, CMV (given diarrhea), mono. HIV and 
Monospot negative. CMV with IgG positive but IgM negative which 
is consistent with past infection. Unlikely related to 
malignancy given acuity of onset but should have further 
malignancy w/u as below. Reviewed peripheral smear with heme/onc 
and no abnormalities noted. Monitored differential on CBC and 
neutropenia 540 at discharge. 

#Weight loss:
#Ovarian mass:
Concerning for possible ovarian malignancy as the driver of her 
chronic weight loss. PCP also notes patient has been ongoing 
work-up for chronic nausea. Has had thorough w/u as outpatient 
including EGD, ___, CTAP--notable only for complex ovarian cyst 
which she is scheduled to get evaluated further by gynecologist 
___. Patient see by nutrition here and recommended 
ensure TID as well as MV with minerals for malnutrition.

#Nausea/vomiting:
Patient had two episodes of nausea and vomiting on consecutive 
mornings that improved later in the day without intervention. 
Unclear cause of this. Could be due to viral syndrome and if so 
should improve with time. Patient was given PRN zofran and 
Maalox for symptomatic relief to take at home. If symptoms 
persist, would recommend working up for a possible hormone 
secreting ovarian tumor given imaging findings and further GI 
workup.

CHRONIC ISSUES:
===============
#HTN
#HLD
Continued statin, lisinopril

#Severe Malnutrition
Seen by nutrition given significant weight loss over last 
several months. 
- Continue to supplement meals with ensure TID

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 20 mg PO QPM 
2. Omeprazole 20 mg PO DAILY 
3. Lisinopril 5 mg PO DAILY 

 
Discharge Medications:
1.  Aluminum-Magnesium Hydrox.-Simethicone ___ mL PO QID:PRN 
Indigestion/Gi upset  
2.  Multivitamins W/minerals 1 TAB PO DAILY  
3.  Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - First Line  
4.  Atorvastatin 20 mg PO QPM  
5.  Lisinopril 5 mg PO DAILY  
6.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
===================
PRIMARY DIAGNOSIS
===================
Viral URI

====================
SECONDARY DIAGNOSIS
====================
Neutropenia
Weight loss
Complex ovarian cyst
HTN
HL

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
======================  
DISCHARGE INSTRUCTIONS  
======================  
 Dear Ms. ___,  
 
It was a pleasure caring for you at ___ 
___.  

 WHY WAS I IN THE HOSPITAL?  
 - You had a fever and were found to have a low white blood cell 
count.

 WHAT HAPPENED TO ME IN THE HOSPITAL?  
 - We checked you for several viral infections including HIV, 
mononucleosis, influenza, and CMV. The mononucleosis test and 
HIV test was negative but the CMV is still pending. Will we 
notify you of these results once they come back. 
 - We checked a chest X-ray which did not show any signs of a 
pneumonia
 - We monitored your white blood cell counts were briefly low 
but improved at the time of discharge.
 - You had some nausea and loose stools and were given some 
medication to help improve the nausea.

 WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL? 
 - You have an appointment with Dr. ___ on ___ at 8:40 
AM at ___ Internal Medicine.
 - Be sure to attend your appointment with your OB/GYN physician 
___ ___ regarding further workup of the ovarian cyst 
 - Please call your doctor if you develop more fevers or being 
to feel unwell at home. 
 - Please take your medications and go to your follow up 
appointments as described in this discharge summary.  
 - If you experience any of the danger signs listed below, 
please call your primary care doctor or go to the emergency 
department immediately.  

We wish you the best!  
 
Sincerely,  
Your ___ Team  

 
Followup Instructions:
___